US06384028B1
1N aqueous LiOH (3.0 ml) was added to a solution of N-[(R)-1-[3-(1-tert-butoxycarbonyl-4-piperidyl)-(Z)-acryloyl]-3-piperidylcarbonyl]-3(S)-ethynyl-β-alanine ethyl ester (1.0 g) in tetrahydrofuran (5 ml)-EtOH (5 ml) at 0° C. The reaction mixture was stirred for 2 hours at room temperature, then water was added, and the whole was washed with diethyl ether. The aqueous layer was made acidic with 20% aqueous KHSO4, and extracted with ethyl acetate. The organic layer was dried over MgSO4, evaporated in vacuo. The residue was dissolved in ethyl acetate (10 ml) and 4N HCl in ethyl acetate (5.1 ml) was added. The reaction mixture was stirred for 2 hours and diethyl ether was added. The precipitates were collected with filtration and dissolved with water. The solution was neutralized with saturated aqueous NaHCO3 and purified by HP-20 resin eluting with isopropanol/water=(0-30%) to give N-[(R)-1-[3-(4-piperidyl)-(Z)-acryloyl]-3-piperidylcarbonyl]-3(S)-ethynyl-β-alanine (0.5 g, 67.8%).

reactant | LiOH | 1N, 3.0 ml | [Li+].[OH-]
reactant | N-[(R)-1-[3-(1-tert-butoxycarbonyl-4-piperidyl)-(Z)-acryloyl]-3-piperidylcarbonyl]-3(S)-ethynyl-β-alanine ethyl ester | 1.0 g | C(C)OC(C[C@H](NC(=O)[C@H]1CN(CCC1)C(\C=C/C1CCN(CC1)C(=O)OC(C)(C)C)=O)C#C)=O | C26H39N3O6
reactant | EtOH | 5 ml | CCO | C2H6O
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-[(R)-1-[3-(4-piperidyl)-(Z)-acryloyl]-3-piperidylcarbonyl]-3(S)-ethynyl-β-alanine | 0.5 g, 67.8% | N1CCC(CC1)\C=C/C(=O)N1C[C@@H](CCC1)C(=O)N[C@@H](CC(=O)O)C#C | C19H27N3O4
